US08183241B2
2.2. Synthesis of 1-[2-furyl(1H-indol-3-yl)methyl]-4-propylpyrrolidin-2-one 153
A solution of indole x4 (117 mg, 1 eq, 1 mmol), 4-propylpyrrolidin-2-one x1 (127 mg, 1 eq, 1 mmol), 2-furaldehyde x5 (0.33 ml, 4 eq, 4 mmol) and (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate x6 (25 mg, 0.1 eq, 0.1 mmol) in acetonitrile (3 ml) is heated 30 minutes in a microwave apparatus (Biotage, 150 W, 130° C.). After cooling to room temperature, the solvent is removed under reduced pressure, and the crude mixture is purified by preparative chromatography on silicagel (CH2Cl2) leading to 1-[2-furyl(1H-indol-3-yl)methyl]-4-propylpyrrolidin-2-one 153 as a brown solid.

reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-propylpyrrolidin-2-one | C(CC)C1CC(NC1)=O | C7H13NO
reactant | 2-furaldehyde | O1C(=CC=C1)C=O | C5H4O2
reactant | (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate | C(C)N(C(OCN1C(CC(C1)CCC)=O)=O)CC | C13H24N2O3
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 1-[2-furyl(1H-indol-3-yl)methyl]-4-propylpyrrolidin-2-one | O1C(=CC=C1)C(N1C(CC(C1)CCC)=O)C1=CNC2=CC=CC=C12 | C20H22N2O2
